US08802659B2
3-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)propanamide
To a solution of 3-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)propanenitrile (233 mg, 0.64 mmol) in DMSO (2 mL) was added K2CO3 (265 mg, 2 mmol, 3.0 eq), the mixture was then cooled to 0° C., and followed by addition of aq. 30% H2O2 (0.3 mL). The reaction mixture was stirred at rt for 1 h, and quenched with water (10 mL). The solvent was removed by freeze n-dried. The crude product was purified by flash chromatography to give the title compound as a white solid (111 mg, 45%) (mobile phase: MeOH/H2O: 0%˜80%). ESI-MS (M+1)+: 383.3. HPLC: 97.84%. 1H NMR (400 MHz, CD3OD) δ: 7.86˜7.79 (m, 3H), 7.53˜7.50 (m, 1H), 7.33˜7.30 (m, 1H), 7.21˜7.16 (m, 1H), 4.42˜4.35 (m, 3H), 3.34˜3.27 (m, 2H), 2.71 (t, 2H), 2.32˜2.24 (m, 2H), 1.96˜1.87 (m, 2H), 1.51˜1.39 (m, 2H), 1.33˜1.20 (m, 2H), 1.17˜1.09 (m, 1H), 0.92 (s, 9H).

reactant | 3-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)propanenitrile | 0.64 mmol, 233 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCCC#N | C24H32N2O
reactant | K2CO3 | 2 mmol, 265 mg, 3.0 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 0.3 mL | OO | H2O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 3-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)propanamide | 111 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCCC(=O)N | C24H34N2O2
